Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Penicillins
 
Attending: ___
 
Chief Complaint:
Chest discomfort
 
Major Surgical or Invasive Procedure:
Cardiac catheterization with placement of two drug-eluting 
stents to left circumflex artery
 
History of Present Illness:
Mr. ___ is a pleasant ___ yo man with CAD s/p multiple 
PCIs ___ ___ OM1; ___ BMS to RCA; ___ PES to LCx, LAD; ___ 
SES to OM1), type II diabetes mellitus, hypertension and 
hypercholesterolemia who presents with chest discomfort.

He began to develop chest discomfort about 3 days PTA.  He says 
shortly after eating dinner, he started belching.  He was 
sitting down at the time, decided to take Pepto-Bismol and had 
minimal relief.  He described the sensation as "discomfort" 
localized to his substernal area, ___ on a pain scale.  He does 
not describe it as pain or pressure. It did not radiate and was 
not associated with diaphoresis, nausea, shortness of breath or 
palpitations.

On the morning following this ___ episode of chest discomfort, 
he went walking with his wife (they usually walk ___ miles every 
morning) but had to stop less than one mile due to persistent 
chest discomfort.  He "did not feel right."  He returned home, 
took one Percocet and had intermittent discomfort throughout the 
day.  One day prior to admission, he had the same pain and again 
had to cut short his morning walk.  Patient is concerned and has 
come to the hospital because the sensation he is experiencing is 
similar to his previous MIs.  He said he has never had classic 
anginal symptoms in the past.

In the ED, he was having the same ___ substernal discomfort; he 
was noted to be mildly hypertensive.  Vitals were T 97.8, HR 60, 
BP 144/79, RR 12, O2 sat 99% on RA.  He received aspirin 325 mg 
and was admitted.

His ROS is otherwise negative. He denies headache, 
lightheadedness, dizziness, changes in bowel habits, bleeding or 
swelling in the legs.
 
Past Medical History:
CAD s/p multiple interventions (see below)
Diabetes mellitus, type II x ___ years on glipizide
Hypertension
Hypercholesterolemia

CAD RISK FACTORS: + Diabetes, + Dyslipidemia, + Hypertension

CARDIAC PROCEDURAL HISTORY:
___ ___ ___ BMS to RCA
___ PES to LCx, LAD
___ DES to OM1
 
Social History:
___
Family History:
Father with MI in ___.
Mother with MI in ___.
Multiple second degree relatives with CAD.
 
Physical Exam:
GENERAL: Middle-aged South Asian man in NAD. Oriented x3. 
Pleasant. Mood, affect appropriate.
VS: T 97.6, BP 123/82, HR 56, RR 14, O2 sat 97% on RA.
HEENT: NCAT. Sclera anicteric. EOMI. Conjunctiva were pink. MMM
NECK: Supple with JVP of 6 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. bradycardic, Soft S1, S2. No murmurs, rubs or gallops.
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
Respirations were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.
EXTREMITIES: No clubbing, cyanosis or edema.
 
Pertinent Results:
___ 07:00PM   WBC-5.7 RBC-4.47* HGB-14.7 HCT-40.7 MCV-91 
MCH-32.9* MCHC-36.2* RDW-13.2
___ 07:00PM   NEUTS-47.5* ___ MONOS-5.1 EOS-7.4* 
BASOS-1.0
___ 07:00PM   PLT COUNT-253
___ 07:00PM   ___ PTT-28.5 ___

___ 09:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG

___ 07:00PM   GLUCOSE-141* UREA N-13 CREAT-0.8 SODIUM-139 
POTASSIUM-4.5 CHLORIDE-105 TOTAL CO2-28 ANION GAP-11
___ 07:00PM   ALT(SGPT)-23 AST(SGOT)-37 CK(CPK)-156 ALK 
PHOS-60 TOT BILI-0.4
___ 07:00PM   CALCIUM-9.5

___ 07:00PM BLOOD CK(CPK)-156  CK-MB-4  cTropnT-<0.01
___ 07:15AM BLOOD CK(CPK)-109  CK-MB-4  cTropnT-<0.01
___ 10:05PM BLOOD CK(CPK)-93
___ 06:00AM BLOOD CK(CPK)-98

EKG at admission:  Sinus bradycardia. Left axis deviation. Left 
anterior fascicular block. Left ventricular hypertrophy. 
Non-specific T wave abnormalities. Compared to the previous 
tracing of ___ there is no significant difference.

CXR at admission:  The cardiomediastinal silhouette is stable 
and unremarkable. There are multiple coronary artery stents 
present. There is stable mild elevation of the right 
hemidiaphragm. The lungs otherwise are clear.

Cardiac catheterization ___:
1. Selective coronary angiography of this right dominant system 
revealed one vessel coronary artery disease. LMCA and LAD had no 
angiographically apparent stenosis. The Lcx had a proximal 40% 
stenosis, and a 80% distal stenosis. The RCA had no 
angiographically apparent stenosis.
2. Limited resting hemodynamics revealed mild systemic 
hypertension with a central aortic pressure of 140/75 mmHg.
3. Successful stenting of the LCX with a 2.5x8mm and a 3.0x8mm 
Xience stents with the distal stent that was postdilated to 
2.75mm. The final angiography revealed no residual stenosis, no 
angiographically apparent dissection, and TIMI 3 flow.
 
Brief Hospital Course:
___ yo man with CAD, type II diabetes mellitus, hypertension, 
hypercholesterolemia presents with chest discomfort similar to 
his usual anginal symptoms and decreased exercise tolerance, 
concerning for crescendo unstable angina.

# CHEST PAIN / CAD:  Patient has never had classic angina in the 
past, and he reports that this was his anginal equivalent 
symptoms prior to his previous PCIs. There were no significant 
EKG changes, and his cardiac biomarkers were normal twice.  He 
is having new onset (beginning 3 days PTA) chest discomfort that 
is limiting his lifestyle and usual physical activities, and in 
this setting, it is concerning for crescendo unstable angina.  
He was continued on his outpatient aspirin, Plavix, ___ 
and statin.  He underwent coronary angiography (rather than 
stress testing) on HD 1 and two everolimus-eluting stents were 
placed in his left circumflex artery proximal and distal to his 
previous stent.  After the procedure and overnight, he reported 
no chest discomfort.  He is being discharged on his home 
cardiovascular regimen, with the exception that his trandolapril 
has been increased from 0.5 mg to 1.0 mg once daily. The 
importance of uninterrupted dual anti-platelet therapy to 
prevent stent thrombosis was reviewed with the patient.

# SYSTOLIC HEART FAILURE:  His most recent echo from ___ 
showed an ejection fraction of 45-50%.  His ACE-I dose was 
increased given his hypertension at cardiac catheterization. He 
will have follow-up with his cardiologist, Dr. ___, in two 
weeks.  He will continue on ___, statin, and 
Plavix as well.

# DIABETES MELLITUS:  His glipizide was held at admission and 
patient recieved HISS.  He is being discharged on his outpatient 
glipizide regimen.

# HYPERCHOLESTEROLEMIA:  Continued simvastatin at outpatient 
dose, as his CAD was thought to be due more to edge restenosis 
than progression of atherosclerosis.

# HYPERTENSION:  Mildly hypertensive on admission, although 
blood pressure when he arrived to floor was better controlled 
with SBP 120-130.  Current BP regimen includes BB and ACE-I. 
Changes were made to his ACE-I as above.
 
Medications on Admission:
Atenolol 25 mg daily
Clopidogrel 75 mg daily
Fluticasone nasal 50 mcg ___ sprays daily
Glipizide 2.5 mg daily
Simvastatin 40 mg daily
Trandolapril 0.5 mg daily
 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
2. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
3. Trandolapril 1 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Disp:*30 Tablet(s)* Refills:*2*
4. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed).
5. Atenolol 25 mg Tablet Sig: One (1) Tablet PO once a day.
6. Glipizide 5 mg Tablet Sig: 0.5 Tablet PO once a day.
7. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime). Disp:*30 Tablet(s)* Refills:*2*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
Marker negative crescendo unstable angina
Coronary artery disease treated with deployment of 2 
drug-eluting stents in his left circumflex artery

SECONDARY
Diabetes mellitus
Hypertension
Hypercholesterolemia
 
Discharge Condition:
Vital signs stable.  No chest pain.
 
Discharge Instructions:
You were hospitalized for chest discomfort.  You underwent 
coronary angiography and two stents were placed to one of the 
blood vessels surrounding your heart, your left circumflex 
artery.  We believe that your chest pain was due to narrowing of 
this blood vessel.

We have made a change to one of your medicines.  We have 
increased your trandolapril to 1 mg once daily from 0.5 mg once 
daily.  We have made no other changes to your medications.

Please follow-up with your cardiologist in ___, 
M.D. ___ ___ 12:30.

Please follow-up with your primary care physician in ___. 
___, MD ___ ___ 10:45

Please return to the emergency room if you have any worsening of 
your chest discomfort, any light-headedness or dizziness.
 
Followup Instructions:
___